US04923861
Ethyl 4-(4-fluorophenyl)-1,2-dihydro-2-oxo-3-quinolinecarboxylate (12.8 g) is dissolved in 40 ml of phosphorus oxychloride under an atmosphere of nitrogen. The resulting solution is refluxed one hour, cooled, concentrated, and the residue neutralized with cold 1N sodium hydroxide solution and extracted with ethyl acetate. The organic extracts are filtered through a bed of silica to give 13.2 g of ethyl 2-chloro-4-(4-fluorophenyl)-3-quinolinecarboxylate as a white solid; mp 113°-114° C.; 1H NMR (chloroform-d): δ 8.02 (d, 1H), 7.75-7.70 (m, 1H), 7.52-7.43 (m, 2H), 7.34-7.28 (m, 2H), 7.20-7.12 (m, H), 4.14-4.07 (q, 2H), 1.02 (t, 3H) ppm.

reactant | Ethyl 4-(4-fluorophenyl)-1,2-dihydro-2-oxo-3-quinolinecarboxylate | 12.8 g | FC1=CC=C(C=C1)C1=C(C(NC2=CC=CC=C12)=O)C(=O)OCC | C18H14FNO3
reactant | phosphorus oxychloride | 40 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 2-chloro-4-(4-fluorophenyl)-3-quinolinecarboxylate | 13.2 g | ClC1=NC2=CC=CC=C2C(=C1C(=O)OCC)C1=CC=C(C=C1)F | C18H13ClFNO2
